US05324747
To 2.0 g (3.83 mmol) of N-(carboxymethyl)-N-[3,5-bis(decyloxy)phenyl]glycine in 100 ml of methylene chloride stirred at room temperature was added 0.9 g (4.37 mmol) of dicyclohexylcarbodiimide The reaction mixture was stirred at room temperature for 17 hours. After cooling in an ice bath, the precipitate was removed by filtration and the filtrate was concentrated at reduced pressure to a solid which was recrystallized from hexane to give 1.7 g (88% yield, mp 62°-62°) of 4-[3,5-bis(decyloxy)phenyl]2,6-morpholinedione.

reactant | N-(carboxymethyl)-N-[3,5-bis(decyloxy)phenyl]glycine | 3.83 mmol, 2.0 g | C(=O)(O)CN(CC(=O)O)C1=CC(=CC(=C1)OCCCCCCCCCC)OCCCCCCCCCC | C30H51NO6
reactant | dicyclohexylcarbodiimide | 4.37 mmol, 0.9 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-[3,5-bis(decyloxy)phenyl]2,6-morpholinedione | 1.7 g, 88% yield | C(CCCCCCCCC)OC=1C=C(C=C(C1)OCCCCCCCCCC)N1CC(OC(C1)=O)=O | C30H49NO5
